US07309720B2
d) Ethyl(2S)-2-ethoxy-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]-propanoate
A solution of cyanomethylenetri-N-butylphosphorane (0.663 g, 2.75 mmol) in THF (1.5 mL) was added to a solution of ethyl(2S)-2-ethoxy-3-[4-(2-hydroxyethyl)phenyl]-propanoate (0.244 g, 0.92 mmol) and 4-hydroxyphenyl methanesulfonate (0.172 g, 0.92 mmol) in THF (1.5 mL). The reaction mixture was heated at 150° C. in a microwave oven for 10 minutes. The solvent was removed under reduced pressure. The crude product was purified by flash chromatography (silica, heptane/ethyl acetate 3:1 as the mobile phase) affording 0.167 g (42%) of the title compound.

reactant | ethyl(2S)-2-ethoxy-3-[4-(2-hydroxyethyl)phenyl]-propanoate | 0.92 mmol, 0.244 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)CCO | C15H22O4
reactant | 4-hydroxyphenyl methanesulfonate | 0.92 mmol, 0.172 g | CS(=O)(=O)OC1=CC=C(C=C1)O | C7H8O4S
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | Ethyl(2S)-2-ethoxy-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]-propanoate | 0.167 g, 42% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C22H28O7S
